US05025025
To a mixture of 0.422 g (1.2 mmol) methyl 8-chloro-4[m-(3-pyridyl)phenyl]oct-2-enoate, 0.097 g (0.41 mmol) cobalt (II) chloride and 8 mL methanol at 0° C. is added slowly 0.105 g (2.8 mmol) of sodium borohydride. The resulting black suspension is stirred at 0° C. for 30 minutes and then filtered through activated magnesium silicate (Florisil) and the filter cake is washed several times with methanol. The solvent is evaporated to obtain methyl 8-chloro-4-[m-(3-pyridyl)-phenyl]octanoate; IR (CH2Cl2): 1732 cm-1.

reactant | methyl 8-chloro-4[m-(3-pyridyl)phenyl]oct-2-enoate | 1.2 mmol, 0.422 g | ClCCCCC(C=CC(=O)OC)C1=CC(=CC=C1)C=1C=NC=CC1 | C20H22ClNO2
reactant | sodium borohydride | 2.8 mmol, 0.105 g | [BH4-].[Na+]
catalyst | cobalt (II) chloride | 0.41 mmol, 0.097 g | [Co](Cl)Cl
solvent | methanol | 8 mL | CO | CH4O
product | methyl 8-chloro-4-[m-(3-pyridyl)-phenyl]octanoate | ClCCCCC(CCC(=O)OC)C1=CC(=CC=C1)C=1C=NC=CC1 | C20H24ClNO2
